US07524882B2
A mixture of 4-(trifluoromethylsulfanyl)phenol (1.9 g, 10 mmol), allyl brimide (1.8 g, 15 mmol) and Cs2CO3 (6.5 g, 20 mmol) in DMF, 80 mL) was stirred for 2 hrs at 50° C. The reaction was diluted with ethyl acetate and washed with water. The organic phase was dried and concentrated to give essentially pure allyl 4-(trifluoromethylsulfanyl)phenyl ether.

reactant | 4-(trifluoromethylsulfanyl)phenol | 10 mmol, 1.9 g | FC(F)(F)SC1=CC=C(C=C1)O | C7H5F3OS
reactant | Cs2CO3 | 20 mmol, 6.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | allyl 4-(trifluoromethylsulfanyl)phenyl ether | FC(F)(F)SC1=CC=C(C=C1)OCC=C | C10H9F3OS
